US08119647B2
Step 1: 7-Methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one:
To a stirred solution of 2-aminothiazole (5.0 g, 49.930 mmol) in acetic acid (40 ml) was added ethyl acetoacetate (9.746 g, 74.90 mmol) at room temperature. The reaction mixture was heated to reflux for 12 h under nitrogen. The reaction mixture was allowed to cool to room temperature. The residue obtained after concentration of the reaction mixture was basified with saturated solution of sodium bicarbonate and diluted with ethyl acetate (500 ml). The organic layer was washed with brine, dried over anhydrous Na2SO4 and concentrated to afford a crude product which was purified by silica gel column chromatography using 1% methanol in chloroform to give 4.20 g of the product as a white solid; 1H NMR (300 MHz, CDCl3) δ 2.38 (s, 3H), 6.15 (s, 1H), 6.95 (d, J=4.8 Hz, 1H), 7.94 (d, J=4.8 Hz, 1H).

reactant | 2-aminothiazole | 49.930 mmol, 5.0 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl acetoacetate | 74.90 mmol, 9.746 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 7-Methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one | 4.20 g | CC=1N=C2N(C(C1)=O)C=CS2 | C7H6N2OS
